US06291520B1
ethyl-N′-[cis-3-(4-fluorophenyl)cyclobutyl]-N′-hydroxyhydantoate
To a stirred solution of cis-3-(4-fluorophenyl)cyclobutylhydroxylamine (0.9 g, 5 mmol) in THF (20 ml) was added ethyl isocyanatoacetate (0.71 g, 5.5 mmol). After stirring for 10 minutes, EtOH was added. Volatiles were removed in vacuo and the resulting residue was recrystallized from ethyl acetate/n-hexane to afford 1.10 g (71% yield) of the title compound as colorless needles, m.p. 130-132° C.

reactant | cis-3-(4-fluorophenyl)cyclobutylhydroxylamine | 5 mmol, 0.9 g | FC1=CC=C(C=C1)[C@H]1C[C@H](C1)NO | C10H12FNO
reactant | ethyl isocyanatoacetate | 5.5 mmol, 0.71 g | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | EtOH | CCO | C2H6O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ethyl-N′-[cis-3-(4-fluorophenyl)cyclobutyl]-N′-hydroxyhydantoate | 1.10 g, 71% yield | C(C)OC(CNC(=O)N(O)[C@@H]1C[C@@H](C1)C1=CC=C(C=C1)F)=O | C15H19FN2O4
